US06362178B1
2-Propoxybenzonitrile
75 g (630 ml) of 2-hydroxybenzonitrile are refluxed with 174 g (1.26 mol) of potassium carbonate and 232.2 g (1.89 mol) of ethyl bromide in 11 of acetone overnight. The solid is filtered off, the solvent is removed under reduced pressure and the residue is distilled under reduced pressure.

reactant | 2-hydroxybenzonitrile | 630 ml, 75 g | OC1=C(C#N)C=CC=C1 | C7H5NO
reactant | potassium carbonate | 1.26 mol, 174 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromide | 1.89 mol, 232.2 g | C(C)Br | C2H5Br
solvent | acetone | CC(=O)C | C3H6O
product | 2-Propoxybenzonitrile | C(CC)OC1=C(C#N)C=CC=C1 | C10H11NO
